US04046900
A sample of 30.9 g of 1-acetyl-4-(4-bromobenzoyl)piperidine is refluxed for 6 hours in 6N HCl, cooled, and the resulting insoluble salt is collected. The salt is recrystallized from an ethanol-ether mixture, then from isopropanol to give off-white crystals, mp 225°-227° C., 4-(4-bromobenzoyl)piperidine hydrochloride.

reactant | 1-acetyl-4-(4-bromobenzoyl)piperidine | 30.9 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)Br)=O | C14H16BrNO2
reactant | HCl | 6N | Cl | ClH
product | 4-(4-bromobenzoyl)piperidine hydrochloride | Cl.BrC1=CC=C(C(=O)C2CCNCC2)C=C1 | InChI=1S/C12H14BrNO.ClH/c13-11-3-1-9(2-4-11)12(15)10-5-7-14-8-6-10;/h1-4,10,14H,5-8H2;1H
